***********************************************************************
*  (C) Copyright 2013 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD19506KCS
* Date: 01/17/2014
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS481 - DECEMBER 2013
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web
*
*****************************************************************************
*
* Model Usage Notes:
*
*****************************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	9.057E-10	)
+	(	1	8.993E-10	)
+	(	2	8.96E-10	)
+	(	3	8.959E-10	)
+	(	4	8.992E-10	)
+	(	5	9.034E-10	)
+	(	6	9.072E-10	)
+	(	7	9.2513E-10	)
+	(	8	9.5376E-10	)
+	(	9	9.5416E-10	)
+	(	10	9.5294E-10	)
+	(	11	9.5257E-10	)
+	(	12	9.521E-10	)
+	(	13	9.5156E-10	)
+	(	14	9.5001E-10	)
+	(	15	9.4942E-10	)
+	(	16	9.488E-10	)
+	(	17	9.4814E-10	)
+	(	18	9.4745E-10	)
+	(	19	9.4675E-10	)
+	(	20	9.4603E-10	)
+	(	21	9.4532E-10	)
+	(	22	9.4462E-10	)
+	(	23	9.4392E-10	)
+	(	24	9.4323E-10	)
+	(	25	9.4256E-10	)
+	(	26	9.4192E-10	)
+	(	27	9.413E-10	)
+	(	28	9.4071E-10	)
+	(	29	9.4013E-10	)
+	(	30	9.3957E-10	)
+	(	31	9.39E-10	)
+	(	32	9.3842E-10	)
+	(	33	9.3781E-10	)
+	(	34	9.3715E-10	)
+	(	35	9.3546E-10	)
+	(	36	9.3473E-10	)
+	(	37	9.3396E-10	)
+	(	38	9.3316E-10	)
+	(	39	9.3233E-10	)
+	(	40	9.3147E-10	)
+	(	41	9.306E-10	)
+	(	42	9.297E-10	)
+	(	43	9.2879E-10	)
+	(	44	9.2786E-10	)
+	(	45	9.2692E-10	)
+	(	46	9.2597E-10	)
+	(	47	9.2402E-10	)
+	(	48	9.2305E-10	)
+	(	49	9.2207E-10	)
+	(	50	9.211E-10	)
+	(	51	9.2011E-10	)
+	(	52	9.1912E-10	)
+	(	53	9.1813E-10	)
+	(	54	9.1614E-10	)
+	(	55	9.1515E-10	)
+	(	56	9.1415E-10	)
+	(	57	9.1316E-10	)
+	(	58	9.1218E-10	)
+	(	59	9.1019E-10	)
+	(	60	9.0921E-10	)
+	(	61	9.0823E-10	)
+	(	62	9.0726E-10	)
+	(	63	9.0628E-10	)
+	(	64	9.0431E-10	)
+	(	65	9.0334E-10	)
+	(	66	9.0237E-10	)
+	(	67	9.004E-10	)
+	(	68	8.9944E-10	)
+	(	69	8.9847E-10	)
+	(	70	8.9751E-10	)
+	(	71	8.9555E-10	)
+	(	72	8.9458E-10	)
+	(	73	8.9362E-10	)
+	(	74	8.9166E-10	)
+	(	75	8.907E-10	)
+	(	76	8.8974E-10	)
+	(	77	8.8777E-10	)
+	(	78	8.8681E-10	)
+	(	79	8.8585E-10	)
+	(	80	8.8389E-10	)
+	(	81	8.8292E-10	)
+	(	82	8.8196E-10	)
+	(	83	8.7999E-10	)
+	(	84	8.7903E-10	)
+	(	85	8.7807E-10	)
+	(	86	8.761E-10	)
+	(	87	8.7514E-10	)
+	(	88	8.7317E-10	)
+	(	89	8.722E-10	)
+	(	90	8.7124E-10	)
+	(	91	8.6927E-10	)
+	(	92	8.683E-10	)
+	(	93	8.6733E-10	)
+	(	94	8.6536E-10	)
+	(	95	8.6439E-10	)
+	(	96	8.6241E-10	)
+	(	97	8.6238E-10	)
+	(	98	8.6234E-10	)
+	(	99	8.623E-10	)
+	(	100	8.6226E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.02E-09	)
+	(	1	8.68E-10	)
+	(	2	7.93E-10	)
+	(	3	7.4E-10	)
+	(	4	7.04E-10	)
+	(	5	6.63E-10	)
+	(	6	6.24E-10	)
+	(	7	5.88E-10	)
+	(	8	5.48E-10	)
+	(	9	5.06E-10	)
+	(	10	4.67E-10	)
+	(	11	4.31E-10	)
+	(	12	4.02E-10	)
+	(	13	3.67E-10	)
+	(	14	3.32E-10	)
+	(	15	2.46E-10	)
+	(	16	8.89E-11	)
+	(	17	4.46E-11	)
+	(	18	4.04E-11	)
+	(	19	3.84E-11	)
+	(	20	3.73E-11	)
+	(	21	3.62E-11	)
+	(	22	3.51E-11	)
+	(	23	3.44E-11	)
+	(	24	3.41E-11	)
+	(	25	3.37E-11	)
+	(	26	3.34E-11	)
+	(	27	3.34E-11	)
+	(	28	3.31E-11	)
+	(	29	3.31E-11	)
+	(	30	3.31E-11	)
+	(	31	3.31E-11	)
+	(	32	3.31E-11	)
+	(	33	3.27E-11	)
+	(	34	3.27E-11	)
+	(	35	3.24E-11	)
+	(	36	3.24E-11	)
+	(	37	3.24E-11	)
+	(	38	3.24E-11	)
+	(	39	3.21E-11	)
+	(	40	3.21E-11	)
+	(	41	3.21E-11	)
+	(	42	3.18E-11	)
+	(	43	3.18E-11	)
+	(	44	3.18E-11	)
+	(	45	3.18E-11	)
+	(	46	3.14E-11	)
+	(	47	3.14E-11	)
+	(	48	3.11E-11	)
+	(	49	3.11E-11	)
+	(	50	3.11E-11	)
+	(	51	3.11E-11	)
+	(	52	3.08E-11	)
+	(	53	3.08E-11	)
+	(	54	3.08E-11	)
+	(	55	3.05E-11	)
+	(	56	3.05E-11	)
+	(	57	3.05E-11	)
+	(	58	3.02E-11	)
+	(	59	3.02E-11	)
+	(	60	3.02E-11	)
+	(	61	2.99E-11	)
+	(	62	2.99E-11	)
+	(	63	2.99E-11	)
+	(	64	2.99E-11	)
+	(	65	2.96E-11	)
+	(	66	2.96E-11	)
+	(	67	2.93E-11	)
+	(	68	2.93E-11	)
+	(	69	2.93E-11	)
+	(	70	2.93E-11	)
+	(	71	2.9E-11	)
+	(	72	2.9E-11	)
+	(	73	2.87E-11	)
+	(	74	2.87E-11	)
+	(	75	2.87E-11	)
+	(	76	2.87E-11	)
+	(	77	2.84E-11	)
+	(	78	2.84E-11	)
+	(	79	2.82E-11	)
+	(	80	2.82E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.656E-08	)
+	(	1	1.4302E-08	)
+	(	2	1.2467E-08	)
+	(	3	1.109E-08	)
+	(	4	1.0016E-08	)
+	(	5	9.175E-09	)
+	(	6	8.499E-09	)
+	(	7	7.893E-09	)
+	(	8	7.132E-09	)
+	(	9	5.713E-09	)
+	(	10	4.888E-09	)
+	(	11	4.665E-09	)
+	(	12	4.491E-09	)
+	(	13	4.369E-09	)
+	(	14	4.286E-09	)
+	(	15	4.292E-09	)
+	(	16	4.4061E-09	)
+	(	17	4.4474E-09	)
+	(	18	4.4826E-09	)
+	(	19	4.5436E-09	)
+	(	20	4.6137E-09	)
+	(	21	4.6748E-09	)
+	(	22	4.7109E-09	)
+	(	23	4.7106E-09	)
+	(	24	4.6739E-09	)
+	(	25	4.6013E-09	)
+	(	26	4.5006E-09	)
+	(	27	4.3786E-09	)
+	(	28	4.2399E-09	)
+	(	29	4.0909E-09	)
+	(	30	3.9349E-09	)
+	(	31	3.7759E-09	)
+	(	32	3.6169E-09	)
+	(	33	3.4623E-09	)
+	(	34	3.3143E-09	)
+	(	35	3.1746E-09	)
+	(	36	3.0446E-09	)
+	(	37	2.9236E-09	)
+	(	38	2.8106E-09	)
+	(	39	2.7059E-09	)
+	(	40	2.6079E-09	)
+	(	41	2.5159E-09	)
+	(	42	2.4292E-09	)
+	(	43	2.3472E-09	)
+	(	44	2.2702E-09	)
+	(	45	2.1962E-09	)
+	(	46	2.1286E-09	)
+	(	47	2.0646E-09	)
+	(	48	2.0059E-09	)
+	(	49	1.9509E-09	)
+	(	50	1.9009E-09	)
+	(	51	1.8559E-09	)
+	(	52	1.8152E-09	)
+	(	53	1.7772E-09	)
+	(	54	1.7442E-09	)
+	(	55	1.7135E-09	)
+	(	56	1.6865E-09	)
+	(	57	1.6615E-09	)
+	(	58	1.6388E-09	)
+	(	59	1.6178E-09	)
+	(	60	1.5988E-09	)
+	(	61	1.5821E-09	)
+	(	62	1.5661E-09	)
+	(	63	1.5511E-09	)
+	(	64	1.5381E-09	)
+	(	65	1.5254E-09	)
+	(	66	1.5144E-09	)
+	(	67	1.5037E-09	)
+	(	68	1.4937E-09	)
+	(	69	1.4847E-09	)
+	(	70	1.4757E-09	)
+	(	71	1.468E-09	)
+	(	72	1.461E-09	)
+	(	73	1.4543E-09	)
+	(	74	1.4473E-09	)
+	(	75	1.4413E-09	)
+	(	76	1.4353E-09	)
+	(	77	1.4306E-09	)
+	(	78	1.4256E-09	)
+	(	79	1.4208E-09	)
+	(	80	1.4168E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD19506KCS  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    6.60e-3  
 .PARAM  ptrc2    1.80e-5
 .PARAM  pwidthP  17.370588235294117647058823529412
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
*RG		2	103	100
*CG		103	3	1e-6
M1   	10	11	12	12	NMOS	W={pwidthP}	L=0.5u	PS={perimP}	PD={perimP}
xcgd	5	10	1	3	cgd
cgs		11	8	3.88744E-09
xcds	8	10	1	3	cds
DBD		3	1	DBD	{17.370588235294117647058823529412/5.788666666666666666666666666666666666666666666667}
LGG		2	5	2.1e-9
RGG		5	11	1.35
RSB		12	9	RTEMP	0.23166e-3
R		9	8	RTEMP	0.23166e-3
RSP		8	6	{0.45e-3+1.3e-3*0}
L		6	3	0.47e-9
RSL		6	3	0.5
RDD		7	10	RTEMP	0.99e-3
RDP		4	7	{0.5e-7+1.42e-6}
LDD		1	4	0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 650
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.77        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -1.125
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.600e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18  gamma=10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (
+ CJO=7.50e-15	VJ=0.5		M=0.625	TNOM=25
+ FC=0.5		TT=2e-09 	XTI=3.3 BV=81
+ IS=5.0e-12 	N=1.06 		RS=2.60e-3
+ TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS CSD19506KCS
*$
*